US07989449B2
(RS)-4-(4-Difluoromethoxy-3-methyl-phenyl)-4-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-4,5-dihydro-oxazol-2-ylamine
A degassed solution of 4-(3-bromo-phenyl)-4-(4-difluoromethoxy-3-methyl-phenyl)-4,5-dihydro-oxazol-2-ylamine (Building Block S, 1.0 g, 2.5 mmol, 1.0 eq) in dimethylsulfoxide (8 mL) was added into a tube which has been charged with a mixture of bis(pinacolato)diboron (0.83 g, 3.2 mmol, 1.1 eq), potassium acetate (0.73 g, 7.5 mmol, 3.0 eq) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(11) dichloromethane complex (37 mg, 0.05 mmol, 0.03 eq) was then added; the tube is sealed and heated to 85° C. for 3 h. Upon completion, water (80 mL) was added extracted with ethyl acetate (3×15 mL), dried (sodium sulfate) and concentrated in vacuo. The crude product was purified by mass triggered preparative HPLC to yield a white solid (20%).

reactant | 4-(3-bromo-phenyl)-4-(4-difluoromethoxy-3-methyl-phenyl)-4,5-dihydro-oxazol-2-ylamine | 2.5 mmol, 1.0 g, 1.0 eq | BrC=1C=C(C=CC1)C1(N=C(OC1)N)C1=CC(=C(C=C1)OC(F)F)C | C17H15BrF2N2O2
reactant | bis(pinacolato)diboron | 3.2 mmol, 0.83 g, 1.1 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 7.5 mmol, 0.73 g, 3.0 eq | C(C)(=O)[O-].[K+]
reactant | water | 80 mL | O | H2O
solvent | dimethylsulfoxide | 8 mL | CS(=O)C | C2H6OS
product | (RS)-4-(4-Difluoromethoxy-3-methyl-phenyl)-4-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-4,5-dihydro-oxazol-2-ylamine | 20% | FC(OC1=C(C=C(C=C1)C1(N=C(OC1)N)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C)F | C23H27BF2N2O4
